US06790957B2
(a) Dibenzyl 2-(2,4-difluorophenyl)-1-{3-[(E)-4-(2,2,3,3-tetrafluoropropoxy)styryl]-1H-1,2,4-triazol-1-yl}-3-(1H-1,2,4-triazol-1-yl)-2-propyl phosphate
2-(2,4-Difluorophenyl)-1-{3-[(E)-4-(2,2,3,3-tetrafluoropropoxy)styryl]-1H-1,2,4-triazol-1-yl}-3-(1H-1,2,4-triazol-1-yl) propan-2-ol (the racemate of Example 19, EP 0472392, 475 mg, 0.88 mmol), 1H-tetrazole (185 mg, 2.64 mmol) and dibenzyl diisopropylphosphoramidite (607 mg, 1.76 mmol) in methylene chloride (5 ml) was stirred at room temperature under a nitrogen atmosphere for 20 hours. The mixture was then cooled to 0° C., and hydrogen peroxide (1.0 ml, 30% solution in water) was added dropwise maintaining the temperature below 20° C. The resulting mixture was stirred at 20° C. for 30 minutes before separating the organic layer, which was washed with water, dried (MgSO4) and the solvent evaporated. The resulting pale yellow oil was purified by column chromatography (silica gel, eluting with ethyl acetate/hexane) to give the subtitle compound as a viscous syrup (595 mg, 84%).

reactant | 2-(2,4-Difluorophenyl)-1-{3-[(E)-4-(2,2,3,3-tetrafluoropropoxy)styryl]-1H-1,2,4-triazol-1-yl}-3-(1H-1,2,4-triazol-1-yl) propan-2-ol | FC1=C(C=CC(=C1)F)C(CN1N=C(N=C1)\C=C\C1=CC=C(C=C1)OCC(C(F)F)(F)F)(CN1N=CN=C1)O | C24H20F6N6O2
reactant | 1H-tetrazole | 2.64 mmol, 185 mg | N1N=NN=C1 | CH2N4
reactant | dibenzyl diisopropylphosphoramidite | 1.76 mmol, 607 mg | C(C)(C)N(P(OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(C)C | C20H28NO2P
reactant | hydrogen peroxide | 1.0 ml | OO | H2O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Dibenzyl 2-(2,4-difluorophenyl)-1-{3-[(E)-4-(2,2,3,3-tetrafluoropropoxy)styryl]-1H-1,2,4-triazol-1-yl}-3-(1H-1,2,4-triazol-1-yl)-2-propyl phosphate | 595 mg, 84% | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OC(CN1N=C(N=C1)\C=C\C1=CC=C(C=C1)OCC(C(F)F)(F)F)(CN1N=CN=C1)C1=C(C=C(C=C1)F)F | C38H33F6N6O5P
